US07101856B2
a) 3-Methoxy-thiophene-2-carbaldehyde
50 mg of 2-hydroxymethyl-6-{2-[2-(4-methoxy-phenyl)-vinyl]-thiophen-3-yloxy}-tetrahydro-pyran-3,4,5-triol were dissolved in 10 ml of methanol. 20 mg of palladium on activated carbon were added and the solution was stirred under a hydrogen atmosphere for 18 h. The catalyst was filtered off and washed with 60 ml of methanol, and the organic phase was concentrated. The residue was chromatographed on silica gel (ethyl acetate). 18 mg of the product with the molecular weight of 396.46 (C19H24O7S); MS (ESI): 419.05 (M+Na+), 414.10 (M+NH4+).

reactant | 2-hydroxymethyl-6-{2-[2-(4-methoxy-phenyl)-vinyl]-thiophen-3-yloxy}-tetrahydro-pyran-3,4,5-triol | 50 mg | OCC1OC(C(C(C1O)O)O)OC1=C(SC=C1)C=CC1=CC=C(C=C1)OC | C19H22O7S
reactant | methanol | 10 ml | CO | CH4O
catalyst | palladium on activated carbon | 20 mg | [Pd] | Pd
product | 3-Methoxy-thiophene-2-carbaldehyde | COC1=C(SC=C1)C=O | C6H6O2S
